US04659862
Methyl 2-(2-Nitro-5-chlorophenyl)acetate
To a solution of 1.576 g (10 mmol) of 4-chloronitrobenzene and 1.68 mL (10.22 mmol) of carbomethyloxymethyltrimethylsilane in anhydrous THF was added 2.751 g (10 mmol) of TASF in 5 mL of acetonitrile at -78° C. The mixture was stirred for 7 hrs at that temperature, and 0.50 mL (9.70 mmol) of bromine was added dropwise. Stirring was continued for 1 hr, and saturated sodium bisulfite was added. The product was extracted into ether and isolated by chromatography on silica using 30% ether/hexane as solvent. The yield was 1.15 g (50%) product, which was an oil. The product was analyzed by infrared spectroscopy and nuclear magnetic resonance spectroscopy.

reactant | 4-chloronitrobenzene | 10 mmol, 1.576 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | TASF | 10 mmol, 2.751 g | CN(C)[S+](N(C)C)N(C)C.C[Si-](C)(C)(F)F
reactant | bromine | 9.70 mmol, 0.50 mL | BrBr | Br2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | THF | C1CCOC1 | C4H8O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | Methyl 2-(2-Nitro-5-chlorophenyl)acetate | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)CC(=O)OC | C9H8ClNO4
